US07642264B2
2′-Chloro-6-trifluoromethyl-4-(4-trifluoromethyl-phenyl)-[2,4′]bipyrimidinyl
The title compound was prepared from 2-iodo-4-trifluoromethyl-6-(4-trifluoromethylphenyl)-pyrimidine (example A.4) (1.0 g, 2.39 mmol) and 2,4-dichloro-pyrimidine (0.356 g, 2.39 mmol) according to the general procedure IVc. Obtained as an off-white solid (0.49 g, 50%). MS (EI) 404.1 [(M)+]; mp 152° C.

reactant | 2-iodo-4-trifluoromethyl-6-(4-trifluoromethylphenyl)-pyrimidine | 2.39 mmol, 1.0 g | IC1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C12H5F6IN2
reactant | 2,4-dichloro-pyrimidine | 2.39 mmol, 0.356 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
product | 2′-Chloro-6-trifluoromethyl-4-(4-trifluoromethyl-phenyl)-[2,4′]bipyrimidinyl | ClC1=NC=CC(=N1)C1=NC(=CC(=N1)C1=CC=C(C=C1)C(F)(F)F)C(F)(F)F | C16H7ClF6N4
